US05998433
b) Synthesis of 1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)decan-1-one
To a solution of 0.230 g (0.829 mmol) of 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)decan-1-one in 20 ml of acetic acid, 0.090 ml (1.0 mmol) of 50% aqueous dimethylamine and 0.080 ml (1.0 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 1.5 hours. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=9/1) to yield the desired product.

reactant | 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)decan-1-one | 0.829 mmol, 0.230 g | O1C=CC2=C1CN(CC2)C(CCCCCCCCC)=O | C17H27NO2
reactant | dimethylamine | 1.0 mmol, 0.090 ml | CNC | C2H7N
reactant | formaldehyde | 1.0 mmol, 0.080 ml | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)decan-1-one | CN(C)CC1=CC2=C(CN(CC2)C(CCCCCCCCC)=O)O1 | C20H34N2O2
